US05116402
Preparation of β-chloralose
Under stirring 0.05 g of 4-methyl-benzene sulphonic acid and 20 ml of chloroform are added to a mixture of 4.5 g of glucose and 19 g of choral. The mixture is heated to reflux temperature and the formed water is separated by means of a Dean-Stark apparatus. The solvent is distilled off, then the mixture is kept at a temperature of 60° C. for 20 minutes. The separated material is filtered off.

reactant | 4-methyl-benzene sulphonic acid | 0.05 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | glucose | 4.5 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | β-chloralose | C([C@H]([C@@H]1[C@@H]([C@@H]2[C@H](O1)O[C@H](O2)C(Cl)(Cl)Cl)O)O)O | C8H11Cl3O6
